US08686000B2
Preparation of 4-allyl-7-hydroxy-6-mesityl[1,3]thiazolo[4,5-b]pyridin-5(4H)-one (compound No. I-a-2)
1.8 g (5 mmol) of methyl 4-[allyl(mesitylacetyl)amino]-1,3-thiazole-5-carboxylate were initially charged in 5 ml of N,N-dimethylformamide and cooled to 0° C. 1.5 eq of sodium hydride (60%) were added and allowed to warm up gradually to room temperature (RT). After stirring at RT for one hour, 5 ml of water were added and the mixture was acidified to pH 1-2. The precipitate formed was filtered off with suction. 1.5 g of inventive compound I-a-2 were thus obtained.

reactant | methyl 4-[allyl(mesitylacetyl)amino]-1,3-thiazole-5-carboxylate | 5 mmol, 1.8 g | C(C=C)N(C=1N=CSC1C(=O)OC)C(CC1=C(C=C(C=C1C)C)C)=O | C19H22N2O3S
reactant | sodium hydride | 1.5 eq | [H-].[Na+]
reactant | water | 5 ml | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 4-allyl-7-hydroxy-6-mesityl[1,3]thiazolo[4,5-b]pyridin-5(4H)-one | 1.5 g | C(C=C)N1C2=C(C(=C(C1=O)C1=C(C=C(C=C1C)C)C)O)SC=N2 | C18H18N2O2S
